US05489593
Ethyl 5-methoxy-4,5,7-trimethylindole-2-carboxylate
A solution of sodium nitrite (1.91 g) in water (4.4 ml) is added (below the surface) to a cold (-10°) thick slurry of 2,3,5-trimethyl-4-methoxyaniline [J. Amer. Chem. Soc., 70 2656 (1948)] in ethanol (10 ml), water (54 ml) and concentrated hydrochloric acid (9.3 ml). The mixture is stirred for 30 min as the temperature rises to -1°, then the solution of the diazonium salt is poured into a vigorously stirred mixture of ethyl methylacetoacetate (3.68 g) in ethanol (24 ml) containing potassium hydroxide (45%), 6 ml) and ice (40 g). The mixture is allowed to warm to 20°-25° with continued stirring for 1 hr, then is extracted with toluene. The toluene extracts are dried (potassium carbonate) and concentrated to give an oil. A solution of the oil in ethanol (20 ml) is stirred while hydrogen chloride rapidly with an exotherm to 60°. The mixture is cooled and saturated with hydrogen chloride at 45°, then is stored overnight at 5°. The precipitate is collected and washed several times with cold ethanol. The solid is partitioned between ethyl acetate and aqueous bicarbonate, the phases separated, the organic phases dried and concentrated. The concentrate is crystallized from acetone/hexane to give the title compound, mp 182°-183°.

reactant | sodium nitrite | 1.91 g | N(=O)[O-].[Na+]
reactant | 2,3,5-trimethyl-4-methoxyaniline | CC1=C(N)C=C(C(=C1C)OC)C | C10H15NO
reactant | ethyl methylacetoacetate | 3.68 g | CCC(CC(=O)OCC)=O | C7H12O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | ethanol | 24 ml | C(C)O | C2H6O
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 4.4 ml | O | H2O
solvent | water | 54 ml | O | H2O
solvent | hydrochloric acid | 9.3 ml | Cl | ClH
product | Ethyl 5-methoxy-4,5,7-trimethylindole-2-carboxylate | COC1(C(=C2C=C(N=C2C(=C1)C)C(=O)OCC)C)C | C15H19NO3
